* Created by KLayout
*** My special header ***

* cell tr_1um_sanken
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_sanken P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -700,420
X$2 VDD \$97 \$169 P7 VSS ASWL
* cell instance $8 r0 *1 -700,350
X$8 VDD \$97 \$128 P10 VSS ASWL
* cell instance $12 r0 *1 -300,420
X$12 VDD \$97 P9 \$133 VSS ASW
* cell instance $23 r0 *1 -300,350
X$23 VDD \$97 P11 \$100 VSS ASW
* cell instance $32 r0 *1 -300,490
X$32 VDD \$97 P6 \$132 VSS ASW
* cell instance $33 r0 *1 -300,560
X$33 VDD \$97 P4 \$202 VSS ASW
* cell instance $34 r0 *1 -300,630
X$34 VDD \$97 P2 \$252 VSS ASW
* cell instance $35 r0 *1 -700,490
X$35 VDD \$97 \$172 P5 VSS ASWL
* cell instance $36 r0 *1 -700,630
X$36 VDD \$97 \$238 P1 VSS ASWL
* cell instance $37 r0 *1 -700,560
X$37 VDD \$97 \$234 P3 VSS ASWL
* cell instance $61 r0 *1 -472.45,471.8
X$61 \$252 \$100 \$238 \$202 \$169 \$172 \$133 \$132 \$128 \$234 VDD VSS
+ ISHIKAI_INV
* cell instance $70 r0 *1 674.3,296.85
X$70 \$61 \$66 \$77 \$150 \$84 VDD VSS AND4_X1
* cell instance $71 r0 *1 641.3,296.85
X$71 \$61 \$62 \$78 \$150 \$83 VDD VSS AND4_X1
* cell instance $72 r0 *1 674.3,412.05
X$72 \$136 \$66 \$152 \$85 \$84 VDD VSS AND4_X1
* cell instance $73 r0 *1 707.3,412.05
X$73 \$136 \$66 \$146 \$85 \$83 VDD VSS AND4_X1
* cell instance $74 r0 *1 641.3,412.05
X$74 \$136 \$62 \$156 \$85 \$83 VDD VSS AND4_X1
* cell instance $75 r0 *1 674.3,527.25
X$75 \$136 \$66 \$219 \$150 \$84 VDD VSS AND4_X1
* cell instance $76 r0 *1 707.3,527.25
X$76 \$136 \$66 \$153 \$150 \$83 VDD VSS AND4_X1
* cell instance $77 r0 *1 707.3,296.85
X$77 \$61 \$66 \$76 \$150 \$83 VDD VSS AND4_X1
* cell instance $78 r0 *1 707.3,181.65
X$78 \$61 \$66 \$60 \$85 \$83 VDD VSS AND4_X1
* cell instance $79 r0 *1 641.3,527.25
X$79 \$136 \$62 \$220 \$150 \$83 VDD VSS AND4_X1
* cell instance $80 r0 *1 608.3,527.25
X$80 \$136 \$62 \$97 \$150 \$84 VDD VSS AND4_X1
* cell instance $81 r0 *1 608.3,296.85
X$81 \$61 \$62 \$113 \$150 \$84 VDD VSS AND4_X1
* cell instance $82 r0 *1 608.3,181.65
X$82 \$61 \$62 \$75 \$85 \$84 VDD VSS AND4_X1
* cell instance $83 r0 *1 641.3,181.65
X$83 \$61 \$62 \$58 \$85 \$83 VDD VSS AND4_X1
* cell instance $84 r0 *1 674.3,181.65
X$84 \$61 \$66 \$59 \$85 \$84 VDD VSS AND4_X1
* cell instance $85 r0 *1 608.3,412.05
X$85 \$136 \$62 \$154 \$85 \$84 VDD VSS AND4_X1
* cell instance $243 r0 *1 608.3,631.65
X$243 VDD P15 \$61 VSS INV_X1
* cell instance $244 r0 *1 624.8,631.65
X$244 VDD \$61 \$136 VSS INV_X1
* cell instance $245 r0 *1 723.8,631.65
X$245 VDD \$83 \$84 VSS INV_X1
* cell instance $246 r0 *1 690.8,631.65
X$246 VDD \$66 \$62 VSS INV_X1
* cell instance $247 r0 *1 707.3,631.65
X$247 VDD P12 \$83 VSS INV_X1
* cell instance $248 r0 *1 641.3,631.65
X$248 VDD P14 \$85 VSS INV_X1
* cell instance $249 r0 *1 674.3,631.65
X$249 VDD P13 \$66 VSS INV_X1
* cell instance $250 r0 *1 657.8,631.65
X$250 VDD \$85 \$150 VSS INV_X1
* device instance $1 r0 *1 680.5,734.2 F_RR
XR$1 VDD P13 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $2 r0 *1 680.5,747.8 F_RR
XR$2 VDD P15 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $3 r0 *1 680.5,727.4 F_RR
XR$3 VDD P12 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $4 r0 *1 680.5,741 F_RR
XR$4 VDD P14 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
.ENDS tr_1um_sanken

* cell ASW
* pin VDD
* pin E
* pin B
* pin A
* pin VSS
.SUBCKT ASW VDD E B A VSS
* cell instance $2 r0 *1 0,0
X$2 VDD E \$3 VSS INV_X1
* device instance $1 r0 *1 18.4,40.2 PMOS
XM$1 A \$3 B VDD PMOS L=1u W=300u AS=476p AD=476p PS=367.6u PD=367.6u
* device instance $16 r0 *1 18.4,9.2 NMOS
XM$16 A E B VSS NMOS L=1u W=120u AS=190.4p AD=190.4p PS=175.6u PD=175.6u
.ENDS ASW

* cell ASWL
* pin VDD
* pin E
* pin B
* pin A
* pin VSS
.SUBCKT ASWL VDD E B A VSS
* cell instance $4 r0 *1 0,0
X$4 VDD E \$1 VSS INV_X1
* device instance $1 r0 *1 18.4,40.2 PMOS
XM$1 A \$1 B VDD PMOS L=1u W=300u AS=476p AD=476p PS=367.6u PD=367.6u
* device instance $16 r0 *1 18.4,9.2 NMOS
XM$16 A E B VSS NMOS L=1u W=120u AS=190.4p AD=180p PS=175.6u PD=165u
* device instance $31 r0 *1 78.4,9.2 NMOS
XM$31 B \$1 VSS VSS NMOS L=1u W=8u AS=12p AD=22.4p PS=11u PD=21.6u
.ENDS ASWL

* cell ISHIKAI_INV
* pin INV_OUT_1
* pin INV_OUT_5
* pin INV_IN_1
* pin INV_OUT_2
* pin INV_IN_4
* pin INV_IN_3
* pin INV_OUT_4
* pin INV_OUT_3
* pin INV_IN_5
* pin INV_IN_2
* pin VDD
* pin VSS
.SUBCKT ISHIKAI_INV INV_OUT_1 INV_OUT_5 INV_IN_1 INV_OUT_2 INV_IN_4 INV_IN_3
+ INV_OUT_4 INV_OUT_3 INV_IN_5 INV_IN_2 VDD VSS
* device instance $1 r0 *1 108.8,-97.2 PMOS
XM$1 VDD INV_IN_5 INV_OUT_5 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $2 r0 *1 108.8,-119.2 NMOS
XM$2 VSS INV_IN_5 INV_OUT_5 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $3 r180 *1 120.2,-32.2 PMOS
XM$3 INV_OUT_4 INV_IN_4 VDD VDD PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u
+ PD=26u
* device instance $4 r0 *1 120.4,-70 NMOS
XM$4 VSS INV_IN_4 INV_OUT_4 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $5 r0 *1 -0.9,89.1 PMOS
XM$5 VDD INV_IN_1 INV_OUT_1 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $6 r0 *1 -0.7,61 NMOS
XM$6 VSS INV_IN_1 INV_OUT_1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $7 r0 *1 -72,39.4 PMOS
XM$7 VDD INV_IN_2 INV_OUT_2 VDD PMOS L=1u W=9u AS=25.2p AD=25.2p PS=23.6u
+ PD=23.6u
* device instance $8 r0 *1 -72.1,6.2 NMOS
XM$8 VSS INV_IN_2 INV_OUT_2 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $9 r0 *1 113.6,27.8 PMOS
XM$9 VDD INV_IN_3 INV_OUT_3 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $10 r0 *1 113.6,2.2 NMOS
XM$10 VSS INV_IN_3 INV_OUT_3 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
.ENDS ISHIKAI_INV

* cell AND4_X1
* pin A
* pin C
* pin Y
* pin B
* pin D
* pin vdd
* pin gnd
.SUBCKT AND4_X1 A C Y B D vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$2 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$2 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd C \$2 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $4 r0 *1 18.1,44.8 PMOS
XM$4 \$2 D vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $5 r0 *1 22.1,44.8 PMOS
XM$5 vdd \$2 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $6 r0 *1 6.1,6.8 NMOS
XM$6 \$2 A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $7 r0 *1 10.1,6.8 NMOS
XM$7 \$4 B \$5 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $8 r0 *1 14.1,6.8 NMOS
XM$8 \$5 C \$7 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $9 r0 *1 18.1,6.8 NMOS
XM$9 \$7 D gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $10 r0 *1 22.1,6.8 NMOS
XM$10 gnd \$2 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND4_X1

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r270 *1 -130,65.5 PMOS
XM$1 VSS PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r270 *1 130,65.5 NMOSE
XM$11 VDD PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
